US08232287B2
tert-butyl 4-[(6-chloro-5-methylpyrimidin-4-yl)oxy]piperidine-1-carboxylate
Tert-butyl 4-hydroxypiperidine-1-carboxylate (2.47 g, 12.3 mmol) and potassium tert-butoxide (1.42 g, 12.7 mmol) were added to a THF (20 mL) solution of 2,4-dichloro-3-methylpyrimidine (1.60 g, 9.82 mmol), and the mixture was stirred for 2 hours. To the reaction solution, water was added, followed by extraction with ethyl acetate three times. The obtained organic layer was washed with saturated saline and dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=80:20-60:40, V/V) to obtain the title compound as colorless oil (3.07 g, yield: 95%).

reactant | Tert-butyl 4-hydroxypiperidine-1-carboxylate | 12.3 mmol, 2.47 g | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | potassium tert-butoxide | 12.7 mmol, 1.42 g | CC(C)([O-])C.[K+]
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | 2,4-dichloro-3-methylpyrimidine | 9.82 mmol, 1.60 g | ClC1N=CC=C(N1C)Cl | C5H6Cl2N2
solvent | water | O | H2O
product | tert-butyl 4-[(6-chloro-5-methylpyrimidin-4-yl)oxy]piperidine-1-carboxylate | 3.07 g, yield: 95% | ClC1=C(C(=NC=N1)OC1CCN(CC1)C(=O)OC(C)(C)C)C | C15H22ClN3O3
